US04544401
N-[(4,6-Dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]-3-pyridinesulfonamide
A mixture containing 2.7 g of N-[(4,6-dimethoxy-1,3,5-triazin-2-yl)aminothioxomethyl]-3-pyridinesulfonamide, 2.98 g of mercuric oxide and 75 ml of acetone was stirred at ambient temperature for 60 hours and then filtered. Evaporation of the filtrate in vacuo yielded the desired product as a residual white solid of m.p. 182°-185° dec.

reactant | N-[(4,6-dimethoxy-1,3,5-triazin-2-yl)aminothioxomethyl]-3-pyridinesulfonamide | 2.7 g | COC1=NC(=NC(=N1)OC)NC(NS(=O)(=O)C=1C=NC=CC1)=S | C11H12N6O4S2
reactant | acetone | 75 ml | CC(=O)C | C3H6O
product | N-[(4,6-Dimethoxy-1,3,5-triazin-2-yl)aminocarbonyl]-3-pyridinesulfonamide | COC1=NC(=NC(=N1)OC)NC(=O)NS(=O)(=O)C=1C=NC=CC1 | C11H12N6O5S
